US04504415
Ac-Ser(tBu)-Asp(OtBu)-Ala-Ala-Val-Asp(OtBu)-Thr(tBu)-Ser(tBu)-Ser(tBu)-Glu(OtBu)-OH, 13
A solution of Ac-Ser(tBu)-Asp(OtBu)-Ala-Ala-Val-Asp(OtBu)-Thr(tBu)-Ser(tBu)-Ser(tBu)-Glu(OtBu)-OC6H5 (22.73 g, 15.2 mmol) in TFE: H2O (270 mL: 20 mL) was treated with 3% H2O2 (15.5 ml, 15.2 mmol, 1 eq.) with stirring (magnetic). The reaction mixture was adjusted to pH 10.5 by addition of 1N NaOH and maintained at pH 10.5 over a period of 3 h by addition of 1N NaOH (triggered by an autotitrator). The reaction mixture was adjusted to pH 3 (1N HCl), filtered and the solid washed with H2O (200 mL) and dried in vacuo. Yield: 21.85 g (98.8%); mp >245° dec; [α]D25 -16.31° (c 0.4, TFE); Rf 0.67 (CHCl3 :MeOH:AcOH; 85-10-5). Amino Acid Anal. (6M HCl, 110°, 24 h): Asp (1.99); Thr (0.96); Ser (2.83); Glu (1.02); Ala (1.99); Val (1.01). Anal. calc. for C67H118N10O22.2H2O (1451.79): C, 55.43; H, 8.19; N, 9.65. Found: C, 55.24; H, 8.24; N, 9.56.

reactant | Ac-Ser(tBu)-Asp(OtBu)-Ala-Ala-Val-Asp(OtBu)-Thr(tBu)-Ser(tBu)-Ser(tBu)-Glu(OtBu)-OC6H5 | 15.2 mmol, 22.73 g | N([C@@H](COC(C)(C)C)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)OC1=CC=CC=C1)C(=O)C | C73H122N10O22
reactant | H2O2 | 15.2 mmol, 15.5 ml, 1 eq. | OO | H2O2
reactant | NaOH | 1N | [OH-].[Na+]
reactant | NaOH | 1N | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | H2O | 270 mL | O | H2O
product | Ac-Ser(tBu)-Asp(OtBu)-Ala-Ala-Val-Asp(OtBu)-Thr(tBu)-Ser(tBu)-Ser(tBu)-Glu(OtBu)-OH | N([C@@H](COC(C)(C)C)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)O)C(=O)C | C67H118N10O22
